US07288528B2
(4-Methoxyphenyl)-(2-methoxyphenyl)methanol 51
1.5 g of o-anisaldehyde are dissolved in THF and cooled to 0° C. 24.2 ml of 4-methoxyphenylmagnesium bromide (0.5 M in THF) are added to the mixture. The reaction solution is stirred at room temperature overnight and then poured into a 20% NH4Cl solution and extracted with ethyl acetate. 2.63 g of the product are obtained, and this can be employed without further purification.C15H16O3 (244.29) MS (ESI+) 227.05 (M−OH)+

reactant | o-anisaldehyde | 1.5 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | 4-methoxyphenylmagnesium bromide | 0.5 M, 24.2 ml | COC1=CC=C(C=C1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
product | (4-Methoxyphenyl)-(2-methoxyphenyl)methanol | 2.63 g | COC1=CC=C(C=C1)C(O)C1=C(C=CC=C1)OC | C15H16O3
